* ============================================================================
* Vehicle-to-Load (V2L) System Simulation  --  generated from CLAUDE.md
* Charging: 230V AC grid -> full-wave bridge rectifier -> filter cap
* Discharging: 400V EV pack -> H-bridge PWM inverter -> LC filter -> AC load
* ============================================================================

* ---------------------------------------------------------------------------
* MODULE A : The Grid & Rectifier (AC -> DC)
*   Vgrid = SINE(0 325 50)  -> 325 V peak = 230 Vrms at 50 Hz
*   Full-wave diode bridge (D1..D4) + 1000u smoothing cap
* ---------------------------------------------------------------------------
Vgrid    gridA gridB SINE(0 325 50)
D1       gridA rect_p D1N4007        ; AC-A -> DC+
D2       gridB rect_p D1N4007        ; AC-B -> DC+
D3       0     gridA  D1N4007        ; DC- (gnd) -> AC-A
D4       0     gridB  D1N4007        ; DC- (gnd) -> AC-B
Cgrid_filter rect_p 0 1000u
Rbleed   rect_p 0 500               ; bleeder load so the cap output is meaningful

* ---------------------------------------------------------------------------
* MODULE B : The EV Battery Simulator
*   Ideal 400 V DC traction pack with 0.5 ohm internal resistance.
*   "dcbus" is the DC rail that feeds the inverter H-bridge.
* ---------------------------------------------------------------------------
Vbattery batt  0     400
Rinternal batt dcbus 0.5

* ---------------------------------------------------------------------------
* MODULE D : PWM Control Signal Block (defined before the bridge that uses it)
*   Vref     = 50 Hz reference sine
*   Vcarrier = 20 kHz triangular carrier (+/-1.2)
*   Behavioral comparators make complementary gate signals gp / gn:
*       ref > carrier  ->  gp = 1 (drives S1 & S4)  ,  gn = 0
*       ref < carrier  ->  gn = 1 (drives S2 & S3)  ,  gp = 0
* ---------------------------------------------------------------------------
Vref      ref     0 SINE(0 1 50)
Vcarrier  carrier 0 PULSE(-1.2 1.2 0 25u 25u 1u 50u)
Bgp gp 0 V = if( V(ref) > V(carrier), 1, 0 )
Bgn gn 0 V = if( V(ref) > V(carrier), 0, 1 )

* ---------------------------------------------------------------------------
* MODULE C : The V2L H-Bridge Inverter (DC -> AC) using ideal switches
*   Left  leg : S1 (high, dcbus->outA) / S2 (low, outA->0)
*   Right leg : S3 (high, dcbus->outB) / S4 (low, outB->0)
*   Diagonal pairs (S1,S4) on gp  and  (S2,S3) on gn  -> bipolar PWM.
*   Each leg's two switches use complementary gates -> no shoot-through.
* ---------------------------------------------------------------------------
S1 dcbus outA gp 0 MySwitch
S4 outB  0    gp 0 MySwitch
S2 outA  0    gn 0 MySwitch
S3 dcbus outB gn 0 MySwitch

* ---- LC low-pass filter (turns the PWM blocks into a sine) ----------------
*   fc = 1/(2*pi*sqrt(L*C)) ~ 734 Hz : well above 50 Hz, far below 20 kHz
L_filter outA nfilt 10m
C_filter nfilt outB 4.7u
* ---- The V2L output load -------------------------------------------------
Rload    nfilt outB 50               ; ~1.8 kW resistive appliance load

* ---------------------------------------------------------------------------
* Device models
* ---------------------------------------------------------------------------
.model D1N4007 D(Is=7.02767n Rs=0.0341512 N=1.80803 Cjo=2.6e-11 M=0.333
+ Vj=0.7 Bv=1000 Ibv=5e-08 Tt=1e-07)
.model MySwitch SW(Ron=0.01 Roff=1Meg Vt=0.5)

* ---------------------------------------------------------------------------
* Analysis : 100 ms transient = 5 cycles of 50 Hz
* ---------------------------------------------------------------------------
.tran 0 100m 0 10u
.option plotwinsize=0

.end
